US05866576
To N-(10,11-dihydroxyundecyl)-2-piperidone (4.21 g, 14.8 mmol) was added 30% hydrogen bromide-acetic acid (8.7 mL) and the mixture was then stirred for 1 hour. The solution was poured carefully into a mixture of sodium bicarbonate (15 g), ice water (150 mL), and dichloromethane (100 mL). After carbon dioxide evolution has subsided, the organic layer was separated and the aqueous layer extracted with dichloromethane (2×80ML). The combined organic layers was dried over sodium sulfate and the solvent evaporated under vacuum to give 1-(10-acetoxy-11-bromoundecyl)-2-piperidone (4.9 g, 89% yield) as a viscous oil which dissolves in methanol (10 mL). A 1M sodium methoxide (15 mL, 15 mmol) in methanol solution was added all at once. After stirring for 1 hour, the solution was treated with water (50 mL) and then extracted with dichloromethane (3×50 mL). The combined extracts were dried over sodium sulfate and the solvent evaporated under vacuum. The residue was purified by chromatography using ethyl acetate to yield 2.40 g (61% yield) N-(10,11-Oxidoundecyl)-2-piperidone as a colorless oil.

reactant | N-(10,11-dihydroxyundecyl)-2-piperidone | 14.8 mmol, 4.21 g | OC(CCCCCCCCCN1C(CCCC1)=O)CO | C16H31NO3
reactant | hydrogen bromide acetic acid | 8.7 mL | Br.C(C)(=O)O
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(10-acetoxy-11-bromoundecyl)-2-piperidone | 4.9 g, 89% yield | C(C)(=O)OC(CCCCCCCCCN1C(CCCC1)=O)CBr | C18H32BrNO3
